US08258134B2
A solution of 3-cyclopentyl-2-(4-hydroxy-6-oxo-6H-pyridazin-1-yl)-propionic acid (12.5 g, 47.6 mmol) in methanol (150 mL) was treated dropwise with thionyl chloride (7.1 g, 59.5 mmol). The mixture was stirred at reflux for 1 h. At this time, the reaction was cooled to 25° C. and concentrated in vacuo. The resulting residue was partitioned between water and ethyl acetate. The combined organics were dried over sodium sulfate and concentrated in vacuo to afford 3-cyclopentyl-2-(4-hydroxy-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester as a light yellow oil (10.5 g, 80%).

reactant | 3-cyclopentyl-2-(4-hydroxy-6-oxo-6H-pyridazin-1-yl)-propionic acid | 47.6 mmol, 12.5 g | C1(CCCC1)CC(C(=O)O)N1N=CC(=CC1=O)O | C12H16N2O4
reactant | thionyl chloride | 59.5 mmol, 7.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 150 mL | CO | CH4O
product | 3-cyclopentyl-2-(4-hydroxy-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester | 10.5 g, 80% | COC(C(CC1CCCC1)N1N=CC(=CC1=O)O)=O | C13H18N2O4
